US07524951B2
A solution of 54.6 mg of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[4-nitrobenzyloxycarbonyl(triphenylphosphoranylidene)methyl]azetidin-2-one in 2 ml of toluene was heated under reflux for 2.5 hr. The solvent was removed by evaporation, and the residue was purified by thin layer chromatography (developed with 5% methanol/ethyl acetate) to give 28.3 mg of (4-nitrobenzyl) (1S,5R,6S)-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate.

reactant | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[4-nitrobenzyloxycarbonyl(triphenylphosphoranylidene)methyl]azetidin-2-one | 54.6 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@H](C(=O)C1=CN2C(S1)=C(N=C2)C(=O)C=2C=NC=CC2)C)C(=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O | C52H52N5O8PSSi
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | (4-nitrobenzyl) (1S,5R,6S)-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate | 28.3 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C34H37N5O7SSi
